US06632810B2
Synthesis of ethyl 3-(6,7,8-trimethoxynaphthalen-2-yl)propenoate:
6,7,8-Trimethoxynaphthalene-2-carboaldehyde (985 mg) and ethyl diethylphosphonoacetate (1.05 mL) were treated in the same manner as in Preparation Example 17 to obtain the title compound.

reactant | 6,7,8-Trimethoxynaphthalene-2-carboaldehyde | 985 mg | COC=1C=C2C=CC(=CC2=C(C1OC)OC)C=O | C14H14O4
reactant | ethyl diethylphosphonoacetate | 1.05 mL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
product | ethyl 3-(6,7,8-trimethoxynaphthalen-2-yl)propenoate | COC=1C=C2C=CC(=CC2=C(C1OC)OC)C=CC(=O)OCC | C18H20O5
